US07787085B2
26.2 g of 4-(8-(4-chalconyloxy)octanoxy)phenylmaleimide, 22.7 g of 4-(8-(4-chalconyloxy)octanoxy)styrene and 3.0 g of azobisisobutyronitrile were dissolved in 500 ml of dimethyl acetamide to carry out a reaction in a nitrogen atmosphere at 80° C. for 10 hours. A viscous reaction mixture was added to methanol to precipitate a polymer which was then dried to obtain 49 g of a 4-(8-(4-chalconyloxy)octanoxy)phenylmaleimide/4-(8-(4-chalconyloxy)octanoxy)styrene alternating copolymer. This polymer was designated as polymer “c”.

reactant | 4-(8-(4-chalconyloxy)octanoxy)phenylmaleimide | 26.2 g | C1(=CC=C(C=C1)OCCCCCCCCOC1=CC=C(C=C1)C=1C(=O)NC(C1)=O)C=CC(=O)C1=CC=CC=C1 | C33H33NO5
reactant | 4-(8-(4-chalconyloxy)octanoxy)styrene | 22.7 g | C1(=CC=C(C=C1)OCCCCCCCCOC1=CC=C(C=C)C=C1)C=CC(=O)C1=CC=CC=C1 | C31H34O3
reactant | azobisisobutyronitrile | 3.0 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | methanol | CO | CH4O
solvent | dimethyl acetamide | 500 ml | CC(=O)N(C)C | C4H9NO
product | 4-(8-(4-chalconyloxy)octanoxy)phenylmaleimide 4-(8-(4-chalconyloxy)octanoxy)styrene | 49 g | C1(=CC=C(C=C1)OCCCCCCCCOC1=CC=C(C=C1)C=1C(=O)NC(C1)=O)C=CC(=O)C1=CC=CC=C1.C1(=CC=C(C=C1)OCCCCCCCCOC1=CC=C(C=C)C=C1)C=CC(=O)C1=CC=CC=C1 | InChI=1S/C33H33NO5.C31H34O3/c35-31(27-10-6-5-7-11-27)21-14-25-12-17-28(18-13-25)38-22-8-3-1-2-4-9-23-39-29-19-15-26(16-20-29)30-24-32(36)34-33(30)37;1-2-26-14-19-29(20-15-26)33-24-10-5-3-4-6-11-25-34-30-21-16-27(17-22-30)18-23-31(32)28-12-8-7-9-13-28/h5-7,10-21,24H,1-4,8-9,22-23H2,(H,34,36,37);2,7-9,12-23H,1,3-6,10-11,24-25H2
